*$
* TLV70215, TLV702-Q1(1.5V) and TLV70315
*****************************************************************************
* (C) Copyright 2017, 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TLV70215, TLV702-Q1(1.5V) and TLV70315
* Date: 30MAR2017 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: TLV702-SLVSAG6C -SEPTEMBER 2010-REVISED MARCH 2015
*            TLV702Q1-SLVSC35B -AUGUST 2013-REVISED JUNE 2015
*            TLV703-SBVS305 –AUGUST 2016-REVISED JANUARY 2017
*
* Model Version: Final 1.10
*
*****************************************************************************
*
* Updates:
*
* Final 1.10
* Release to Web
* <Made below changes to the model>
* 1. Associated project file TLV702 with TLV702-Q1/TLV703.
* 2. Output is isolated with input when EN voltage goes to zero.
* 
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Start-up time
*      b. PSSR
*      c. Enable/VIN shutdown
*      d. Load and line regulation
*      e. Load and line transients
*      f. Internal current limit
*      h. Model supports inverting topology
*      
* 2. Temperature effects & Ground/shutdown/quiescent current have not been modeled
*****************************************************************************
.SUBCKT TLV70215_TRANS IN EN OUT GND NC
R_R3         GND FB  1.0E6  
R_R10         0 NC  100MEG TC=0,0 
E_E14         VZZ_INT 0 VALUE { V(VZZ, GND) }
X_F1    VZZ VOUT_INT N15505691 VYY TLV70215_F1 
R_R11         EN GND  1E6 TC=0,0 
R_R4         FB N15505647  500k  
X_S6    EN_OK 0 N15505647 OUT TLV70215_S6 
V_V1         IN N15577606 0Vdc
C_U1_C3         GND N15505751  1N  
V_U1_V7         U1_N154966513 0 0.5Vdc
E_U1_ABM8         U1_DROP 0 VALUE { (V(ISENSE) * V(U1_DROP_INT)/300m)    }
E_U1_ABM6         U1_N15488677 0 VALUE { IF(V(UV_OK)> 0.6 & V(EN_OK) > 0.6, 
+ {VREF}, 0)    }
R_U1_R3         U1_N15488677 U1_N15488381  {3.333e5*SQRT(TTRN)} TC=0,0 
C_U1_C1         0 U1_N15488381  {1e-6*SQRT(TTRN)}  
X_U1_U1         EN_INT U1_N15496735 U1_N154966513 EN_OK COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U2         VIN_PRE U1_N15502244 U1_N154889573 UV_OK COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_E4         U1_N15488841 GND VALUE { V(U1_N15847160, 0) }
R_U1_R4         U1_N15488775 U1_N15488397  1 TC=0,0 
R_U1_R2         GND U1_N15488397  1G  
C_U1_C2         0 U1_N15488397  1n  
V_U1_V3         U1_N154889573 0 {UHYS}
E_U1_ABM5         U1_N15847160 0 VALUE { MIN(V(U1_N15488397),  
+ MAX(V(VIN_PRE) - V(U1_DROP), 0))   }
R_U1_R5         U1_N15488841 N15505751  10 TC=0,0 
V_U1_V4         U1_N15502244 0 {UVLO}
E_U1_ABM4         U1_N15488775 0 VALUE { V(U1_N15488381)  
+ * (ABS(V(N15506031)) + 1e-6)  
+ / (ABS(V(V_FBK)) + 1e-6)  }
V_U1_V6         U1_N15496735 0 {VEN}
E_U1_E3         U1_DROP_INT 0 TABLE { V(VIN_PRE, 0) } 
+ ( (2.25, 254m)(2.47, 240m)(2.75, 222m)(2.97, 213m)(3.25,
+  200m)(4,200m)(4.7,200m)(4.8, 200m) )
R_U1_R1         GND U1_N15488381  1G  
E_E12         N15505939 0 VALUE { V(VXX, GND) }
E_E5         EN_INT 0 VALUE { V(EN, GND) }
X_U2         OUT N15609388 d_d
R_R9         0 NC  100MEG TC=0,0 
E_E11         V_FBK 0 VALUE { V(FB, GND) }
R_R12         IN N15609388  0.1 TC=0,0 
R_R1         VXX N15505691  {RINP}  
X_H1    VOUT_INT N15505647 ISENSE 0 TLV70215_H1 
E_ABM1         N15571492 0 VALUE { MIN(V(N15505939), (V(Vzz_INT)+(ILIM*ROUT))) 
+    }
R_R2         N15505751 VXX  {PSRR*RINP}  
C_C1         VXX N15505691  {1/(6.28*RINP*POLE)}  
R_R6         N15571917 VYY  1 TC=0,0 
C_C2         VXX N15505751  {1/(6.28*PSRR*RINP*ZERO)}  
X_S1    EN_OK 0 N15577606 N15505691 TLV70215_S1 
E_E6         VIN_PRE 0 VALUE { V(IN, GND) }
E_E13         N15571917 GND VALUE { V(N15571492, 0) }
R_R5         VZZ VYY  {ROUT}  
E_E15         N15506031 0 VALUE { V(VOUT_INT, GND) }
C_C3         VYY GND  1n  
C_C4         GND N15505691  1n  TC=0,0 
.PARAM  psrr=398.1u uvlo=1.9 ilim=500ma ven=0.9v pole=15k zero=200k rinp=1e6
+  ttrn=72.5u rout=1m vref=1.0v uhys=100mv
.ENDS TLV70215_TRANS
*$
.subckt TLV70215_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends TLV70215_F1
*$
.subckt TLV70215_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e6 Ron=1m Voff=0.1 Von=0.9
.ends TLV70215_S6
*$
.subckt TLV70215_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends TLV70215_H1
*$
.subckt TLV70215_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e3 Ron=100 Voff=0.0V Von=1
.ends TLV70215_S1
*$
*********************************///////////
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends d_d
*$