* a dual model for opax322.lib
.subckt opa2322 outa ina- ina+ vee inb+ inb- outb vcc
.include opax322.lib

* .subckt OPAx322 IN+ IN- VCC VEE OUT  
XU1A ina+ ina- vcc vee outa opax322
XU1B inb+ inb- vcc vee outb opax322
.ends
